US06716851B2
4-(4,5,6,7-Tetrahydro-1H-indazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine (76 mg, 0.293 mmol) and 4,5,6,7-tetrahydroindazole (44 mg, 0.360 mmol) similar to Example 166 and was isolated as a white solid (25 mg, 0.072 mmol, 25% %). 1H NMR (CDCl3) 9.68 (d, J 1.2 Hz, 1H), 8.75 (m, 2H), 8.40 (s, 1H), 8.07 (s, 1H), 7.45 (ddd, J=1.2, 5.1, 9.0 Hz, 1H), 2.73 (m, 4H), 1.88 (m, 4H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.293 mmol, 76 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4,5,6,7-tetrahydroindazole | 0.360 mmol, 44 mg | N1N=CC=2CCCCC12 | C7H10N2
product | 4-(4,5,6,7-Tetrahydro-1H-indazolyl)-2-(3-pyridinyl)-6-trifluoromethyl-pyrimidine | N1(N=CC=2CCCCC12)C1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C17H14F3N5
